US07160888B2
Synthesis of 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-1-methyl-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
To a solution of 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-pentanal (450 mg, crude) in DCE (10 mL) was added 2,3-dichlorophenyl-piperazine hydrochloride (495 mg, 1.85 mmol) followed by Et3N (0.55 mL, 3.96 mmol). The mixture was stirred for 10 min and then powdered NaBH(OAc)3 (534 mg, 2.52 mmol) was added. The reaction was stirred at room temperature for 2 h and then quenched with saturated NaHCO3. The mixture was extracted with EtOAc (2×). The organic layer was washed with saturated NaHCO3 and brine, dried over Na2SO4 and concentrated to give a foam. Purification by liquid chromatography (4% MeOH/CH2Cl2) gave the title compound as a white foam (507 mg, 1.09 mmol, 61%). MS: APCI: M+1: 463.1 (Exact Mass: 462.16). The enantiomers were separated by chiral HPLC (Chiralcel OD).

reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-pentanal | 450 mg | O=C1CCC=2C=CC(=NC2N1)OC(CCC=O)C | C13H16N2O3
reactant | 2,3-dichlorophenyl-piperazine hydrochloride | 1.85 mmol, 495 mg | Cl.ClC1=C(C=CC=C1Cl)N1CCNCC1
reactant | Et3N | 3.96 mmol, 0.55 mL | CCN(CC)CC | C6H15N
reactant | NaBH(OAc)3 | 2.52 mmol, 534 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | DCE | 10 mL | ClCCCl | C2H4Cl2
product | 7-{4-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-1-methyl-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | 1.09 mmol, 507 mg, 61% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCC(OC1=CC=C2CCC(NC2=N1)=O)C | C23H28Cl2N4O2
